US07585886B2
A 5.00 g portion of ethyl piperidine-4-carboxylate was dissolved in 100 ml of DMF, and 6.52 g of potassium carbonate and 6.74 g of tert-butyl bromoacetate were added thereto and stirred at 60° C. for 5Hours. After spontaneous cooling, the reaction solution was diluted with diethyl ether, washed with water and saturated brine and dried with anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol) to obtain 7.59 g of ethyl 1-(2-tert-butyl-2-oxoethyl)piperidine-4-carboxylate as a pale yellow oily substance.

reactant | ethyl piperidine-4-carboxylate | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | potassium carbonate | 6.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 6.74 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 1-(2-tert-butyl-2-oxoethyl)piperidine-4-carboxylate | 7.59 g | C(C)(C)(C)C(CN1CCC(CC1)C(=O)OCC)=O | C14H25NO3
